US05478933
Step 5: (2-Aminophenyl)-(6-methoxypyridin-3-yl)methanone
10% Palladium on carbon (1 g) was added to a solution of (2-nitrophenyl)-(6-methoxypyridin-3-yl)methanone (3.6 g) in ethanol (100 ml) and the mixture was hydrogenated at 10 psi (0.7×105N.m-2) for 30 minutes. The reaction mixture was filtered then evaporated to dryness. The residue was purified by column chromatography on silica using ethyl acetate/petroleum ether (60-80) (1:4) to afford the title compound as a yellow solid (2.78 g). mp 60°-62° C. Rf =0.50 in 33% ethyl acetate/petroleum ether (60-80) on silica plates; 1H NMR (360 MHz, CDCl3) δ 4.01 (3H, s), 6.64 (1H, ddd, J=1.5 and 8 Hz), 6.74 (1H, d, J=8 Hz), 6.81 (1H, d, J=9 Hz), 7.29 (1H, ddd, J=1.5 and 8 Hz), 7.46 (1H, dd, J=1.5 and 8 Hz), 7.93 (1H, dd, J=3 and 9 Hz), 8.48 (1H, d, J=3 Hz); MS, m/z 228 for M+ ; IR (KBr) 1620 and 1600 cm-1.

reactant | (2-nitrophenyl)-(6-methoxypyridin-3-yl)methanone | 3.6 g | [N+](=O)([O-])C1=C(C=CC=C1)C(=O)C=1C=NC(=CC1)OC | C13H10N2O4
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (2-Aminophenyl)-(6-methoxypyridin-3-yl)methanone | 2.78 g | NC1=C(C=CC=C1)C(=O)C=1C=NC(=CC1)OC | C13H12N2O2
